US05362878
3-Nitro-4-methyl-2-pyridone was methylated with methyl iodide and reduced with zinc and acetic acid to give 2-methoxy-3-amino-4-methylpyridine. This material was coupled with 2-(4-(1-methylpropyl )phenoxynonanoic acid according to the procedure of Example 25 to give the title compound.

reactant | 3-Nitro-4-methyl-2-pyridone | [N+](=O)([O-])C=1C(NC=CC1C)=O | C6H6N2O3
reactant | methyl iodide | CI | CH3I
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-3-amino-4-methylpyridine | COC1=NC=CC(=C1N)C | C7H10N2O
